US08895572B2
Step A: Methyl (2R)-4′-chloro-6′-oxo-1,3,6′,7′-tetrahydrospiro[indene-2,5′-pyrrolo[2,3-d]pyrimidine]-5-carboxylate
To a solution of methyl 3,4-bis(bromomethyl)benzoate (5.0 g, 15.5 mmol) and 4-chloro-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one (5.3 g, 31.1 mmol) in N,N-dimethylformamide (150 mL) was added cesium carbonate (10.1 g, 31.1 mmol). After 10 min, water was added and the mixture was extracted with ethyl acetate. The combined organic extracts were washed with water, brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (1% methanol/dichloromethane→5% methanol/dichloromethane) then a second silica gel purification (100% dichloromethane→75% dichloromethane/EtOAc gave the title compound as a racemic mixture (2.1 g). Chiral separation of the individual enantiomers was accomplished by use of HPLC using a 10 cm Chiral Pak® AD® column (60% EtOH/hexanes with 0.1% diethylamine to give the title compound (1st eluting enantiomer, 0.9 g). MS 330.2 (M).

reactant | methyl 3,4-bis(bromomethyl)benzoate | 15.5 mmol, 5.0 g | BrCC=1C=C(C(=O)OC)C=CC1CBr | C10H10Br2O2
reactant | 4-chloro-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 31.1 mmol, 5.3 g | ClC=1C2=C(N=CN1)NC(C2)=O | C6H4ClN3O
reactant | cesium carbonate | 31.1 mmol, 10.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | Methyl (2R)-4′-chloro-6′-oxo-1,3,6′,7′-tetrahydrospiro[indene-2,5′-pyrrolo[2,3-d]pyrimidine]-5-carboxylate | ClC=1C2=C(N=CN1)NC([C@@]21CC2=CC=C(C=C2C1)C(=O)OC)=O | C16H12ClN3O3
